US08049006B2
To 3-furancarboxylic acid (1.12 g), nitromethane (10 ml), indium (III) trifluoromethane sulfonate (56 mg), lithium perchlorate (1.06 g), and propionic anhydride (1.28 ml) were added and the mixture was stirred at 50° C. for 3 hours. Water was added to the reaction solution and the solution separated. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, and concentrated. The obtained 5-propionyl-3-furancarboxylic acid was used instead of the starting material of Reference Example 56, that is, the compound S55, for the similar procedure as in Reference Example 56 to obtain tert-butyl 5-propionyl-3-furancarboxylate. This was used instead of the starting material compound of Reference Example 99, that is, the compound S98, for the similar procedure as in Reference Example 99 and Reference Example 100, then D-tartaric acid was used successively instead of the 4N hydrogen chloride/ethyl acetate used as the reagent in Reference Example 101 for the similar procedure as in Reference Example 101 to obtain the title compound.

reactant | 3-furancarboxylic acid | 1.12 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | indium (III) trifluoromethane sulfonate | 56 mg | FC(S(=O)(=O)[O-])(F)F.[In+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | lithium perchlorate | 1.06 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | propionic anhydride | 1.28 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | Water | O | H2O
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
product | tert-butyl 5-propionyl-3-furancarboxylate | C(CC)(=O)C1=CC(=CO1)C(=O)OC(C)(C)C | C12H16O4
